US04107308
4-(3-Pyrazolylamino)-imidazo[1,5-d]-as-triazine
A mixture of 6.0 gm. of 4-(methylthio)-imidazo[1,5-d]-as-triazine, 4.15 gm. of 3-aminopyrazole and 150 ml. of toluene is refluxed for 26 hours. The mixture is evaporated and the residue is heated with a mixture of 150 ml. of ethanol and 40 ml. of dimethylformamide. The mixture is cooled to 0° C. and the desired product is collected as a solid, m.p. 271°-274° C.

reactant | 4-(methylthio)-imidazo[1,5-d]-as-triazine | CSC1=NN=CC=2N1C=NC2 | C6H6N4S
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(3-Pyrazolylamino)-imidazo[1,5-d]-as-triazine | N1N=C(C=C1)NC1=NN=CC=2N1C=NC2 | C8H7N7
